US04404230
3-Amino-4-hydroxy-1,2-benzoisothiazole-1,1-dioxide
A mixture of 5 gm of 3-amino-4-methoxy-1,2-benzoisothiazole-1,1-dioxide and 1.63 gm of potassium cyanide in 15 ml of dimethyl-sulfoxide was heated to 130°-140° C. (bath temperature 160° C.) and kept at this temperature for 1.5 hours. After cooling, the reaction mixture was stirred into 250 ml of methylene chloride, and the resulting precipitate was filtered off, dried and dissolved in 30 ml of water. At 60° C. the solution was treated with charcoal and filtered while hot. The hot filtrate was adjusted to pH 1 with concentrated aqueous hydrochloric acid. After cooling, the resulting crystals were suction-filtered off, washed with a little ice water and dried in vacuo.

reactant | 3-amino-4-methoxy-1,2-benzoisothiazole-1,1-dioxide | 5 gm | NC1=NS(C2=C1C(=CC=C2)OC)(=O)=O | C8H8N2O3S
reactant | potassium cyanide | 1.63 gm | [C-]#N.[K+]
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | dimethyl-sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 3-Amino-4-hydroxy-1,2-benzoisothiazole-1,1-dioxide | NC1=NS(C2=C1C(=CC=C2)O)(=O)=O | C7H6N2O3S
